US08138187B2
8-Isocyanato-8-phenyl-1,4-dioxaspiro[4.5]decane
8-Phenyl-1,4-dioxaspiro[4.5]decane-8-carboxylic acid (3 g, 11.5 mmol) was initially introduced into anisole (30 ml). The suspension obtained was cooled to a temperature of 0° C. in an ice/sodium chloride bath and triethylamine (2.25 ml, 16 mmol) was added. A clear solutions was formed and was stirred at 0° C. for a further 15 min. Phosphoric acid diphenyl ester azide (2.5 ml, 11.5 mmol) was then added to the mixture in the course of 5 min. The reaction mixture was stirred at 0° C. for 20 min, allowed to come to RT in the course of a further 20 min and then heated in an oil bath at 100° C. (bath temperature) for 2 h. For working up, the anisole was distilled off under an oil pump vacuum. Purification by chromatography was carried out on silica gel with toluene. The desired product was obtained as a crystalline solid with a melting point of 38-41° C. in a yield of 2.7 g (91%).

reactant | 8-Phenyl-1,4-dioxaspiro[4.5]decane-8-carboxylic acid | 11.5 mmol, 3 g | C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)C(=O)O | C15H18O4
reactant | triethylamine | 16 mmol, 2.25 ml | C(C)N(CC)CC | C6H15N
reactant | Phosphoric acid diphenyl ester azide | 11.5 mmol, 2.5 ml | [N-]=[N+]=[N-].C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(O)=O
solvent | anisole | 30 ml | C1(=CC=CC=C1)OC | C7H8O
product | 8-Isocyanato-8-phenyl-1,4-dioxaspiro[4.5]decane | N(=C=O)C1(CCC2(OCCO2)CC1)C1=CC=CC=C1 | C15H17NO3
